US03984467
Following a procedure similar to that described in Example 42 but using 3.4 g. sodium in 300 ml. dry acetone, 22.5 g. hexanamidine hydrochloride, and 25.9 g. 4-chlorophenyl isothiocyanate in 150 ml. dry acetone there was obtained 1-(4-chlorophenyl)-3-(hexanimidoyl)-2-thiourea, m.p. 100°-102°C. (from benzene-n-pentane); hydrochloride (21 g.), m.p. 175°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | hexanamidine hydrochloride | Cl.C(CCCCC)(=N)N
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-(4-chlorophenyl)-3-(hexanimidoyl)-2-thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCCCC)=N | C13H18ClN3S
